US06511995B1
According to the same manner as that described in Example 1 except for using an equimolar amount of 3,4-difluorobenzoic acid in place of 3,4-dichlorobenzoic acid and using an equimolar amount of 1-{2-[(5-amino-2-pyridinyl)oxy]phenyl}-1-ethanone obtained in Reference Example 23 in place of 4-[(5-amino-2-pyridinyl)oxy]-1-indanone, the reaction was carried out to obtain the titled compound.

reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | 1-{2-[(5-amino-2-pyridinyl)oxy]phenyl}-1-ethanone | NC=1C=CC(=NC1)OC1=C(C=CC=C1)C(C)=O | C13H12N2O2
product | 4-[(5-amino-2-pyridinyl)oxy]-1-indanone | NC=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H12N2O2
